US08580841B2
Step D: Preparation of 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid.
Ethyl 2-(7-(3-cyano-4-isopropoxybenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (1.32 g, 3.05 mmol) was dissolved in dioxane (34 mL) and 1.0 M aqueous LiOH (9.16 mL, 9.16 mmol) was added. The reaction was stirred at room temperature for 6 h and then warmed to 35° C. and stirred for one additional hour. After cooling to room temperature, the reaction was acidified to pH 3 with 1.0 M HCl and partitioned between water and ethyl acetate. The organics were removed and the aqueous layer was extracted twice with ethyl acetate. The combined extracts were dried over sodium sulfate, filtered and concentrated to give the title compound (1.23 g). LCMS m/z=405.6 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.32 (d, J=5.9 Hz, 6H), 2.03-2.13 (m, 1H), 2.35 (dd, J=15.9, 9.0 Hz, 1H), 2.58-2.77 (m, 4H), 3.41-3.51 (m, 1H), 4.79 (septet, J=5.9 Hz, 1H), 5.01 (s, 2H), 6.69 (dd, J=8.8, 2.4 Hz, 1H), 6.91 (d, J=2.4 Hz, 1H), 7.19 (d, J=8.6 Hz, 1H), 7.28 (d, J=8.8 Hz, 1H), 7.70 (dd, J=8.8, 2.3 Hz, 1H), 7.76 (d, J=2.1 Hz, 1H), 10.45 (s, 1H), 12.1 (bs, 1H).

reactant | Ethyl 2-(7-(3-cyano-4-isopropoxybenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 3.05 mmol, 1.32 g | C(#N)C=1C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=CC1OC(C)C | C26H28N2O4
reactant | LiOH | 9.16 mmol, 1.0 M, 9.16 mL | [Li+].[OH-]
reactant | HCl | 1.0 M | Cl | ClH
solvent | dioxane | 34 mL | O1CCOCC1 | C4H8O2
product | 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 1.23 g | C(#N)C=1C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=CC1OC(C)C | C24H24N2O4
